US04332959
(a) 3-phenoxy 2-acetoxy propionyl chloride
To 22.42 g (0.1 mole) of 2-acetoxy 3-phenoxy propanoic acid, was added 24 g of thionyl chloride and the mixture was heated under reflux for 2 hours. The excess of thionyl chloride was driven off on a rotary evaporator and the residue was distilled under nitrogen. B.P.14 =163°-8° C.

reactant | 2-acetoxy 3-phenoxy propanoic acid | 0.1 mole, 22.42 g | C(C)(=O)OC(C(=O)O)COC1=CC=CC=C1 | C11H12O5
reactant | thionyl chloride | 24 g | S(=O)(Cl)Cl | Cl2OS
product | 3-phenoxy 2-acetoxy propionyl chloride | O(C1=CC=CC=C1)CC(C(=O)Cl)OC(C)=O | C11H11ClO4
